US06096736
To a solution of (5R)-5-carboxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (115.6 g) in dry dichloromethane (700 ml) are added thionyl chloride (70 ml) and 1-methyl-2-pyrrolidone (1 ml), and the mixture is refluxed with stirring for three hours. The solution is added dropwise into a solution of isopropylamine (274 ml) in dichloromethane (300 ml) under ice-cooling, and the mixture is stirred for 12 hours. The mixture is evaporated under reduced pressure to remove the dichloromethane, and to the residue is added a 3N aqueous sodium hydroxide solution (1 liter), and the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is recrystallized from a 75% aqueous methanol (700 ml) to give (5R)-5-isopropylaminocarbonylmethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (63.2 g).

reactant | (5R)-5-carboxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 115.6 g | C(=O)(O)C[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C19H21NO4S
reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methyl-2-pyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
reactant | isopropylamine | 274 ml | C(C)(C)N | C3H9N
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (5R)-5-isopropylaminocarbonylmethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 63.2 g | C(C)(C)NC(=O)C[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C22H28N2O3S
